US07767827B2
Trichloromethyl chloroformate (0.49 g, 2.5 mmol) was added to a chloroform (10 mL) solution of 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole (0.78 g, 2.5 mmol) at 0° C., and while the mixture was allowed to gradually warm up to a room temperature, it was further stirred at room temperature for 3 hours. Tetrahydrofurfurylamine (0.51 g, 5.0 mmol) and triethylamine (1.01 g, 10 mmol) were added to the reaction mixture, and the mixture was refluxed under heating for 4 hours. After completion of the reaction, the reaction mixture was poured into ice and extracted with chloroform (20 mL×3 times). The organic layer was washed with water and dried over anhydrous magnesium sulfate, the desiccant was removed by filtering, and the solvent was distilled off the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate:hexane=1:7) to give a white solid of N-tetrahydrofurfuryl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.31 g, yield: 28.3%). Melting point: 74˜76° C., 1H-NMR (CDCl3, TMS, ppm): δ1.45˜1.65 (m, 1H), 1.75-2.05 (m, 3H), 2.58 (d, J=0.8 Hz, 3H), 3.32 (dt, J=6.2 and 13.9 Hz, 1H), 3.47 (ddd, J=3.7, 5.6 and 13.9 Hz, 1H), 3.60˜3.85 (m, 2H), 3.95˜4.15 (m, 1H), 5.75 (q, J=0.8 Hz, 1H), 6.85˜7.15 (m, 1H), 7.66 (s, 2H).

reactant | Trichloromethyl chloroformate | 2.5 mmol, 0.49 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole | 2.5 mmol, 0.78 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)OC1=NNC(=C1)C | C11H7Cl2F3N2O
reactant | Tetrahydrofurfurylamine | 5.0 mmol, 0.51 g | C(C1CCCO1)N | C5H11NO
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-tetrahydrofurfuryl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.31 g, yield: 28.3% | C(C1CCCO1)NC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C17H16Cl2F3N3O3
